* ESD_CDM: the secondary (CDM) ESD network.
* Written by openroad/scripts/esd_layout.py, together with the GDS it matches.
* The circuit is XSCHEM_v2/ESD_CDM.sch; see it for why the diodes are these two
* types and no others.
.subckt ESD_CDM PAD CORE VDD VSS
D1 VSS PAD diode_nd2ps_06v0 AREA=50p PJ=30u
D2 VSS PAD diode_nd2ps_06v0 AREA=50p PJ=30u
D3 PAD VDD diode_pd2nw_06v0 AREA=50p PJ=30u
D4 PAD VDD diode_pd2nw_06v0 AREA=50p PJ=30u
R1 CORE PAD VSS ppolyf_u_3k W=1.0e-06 L=2.0e-06 R=6000
R2 CORE PAD VSS ppolyf_u_3k W=1.0e-06 L=2.0e-06 R=6000
R3 CORE PAD VSS ppolyf_u_3k W=1.0e-06 L=2.0e-06 R=6000
R4 CORE PAD VSS ppolyf_u_3k W=1.0e-06 L=2.0e-06 R=6000
R5 CORE PAD VSS ppolyf_u_3k W=1.0e-06 L=2.0e-06 R=6000
.ends
